datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:8],20.0832
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18](=[C:19]([H:21])[H:22])[H:20],0.8368
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:19])[H:20])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],136.942
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][H:15],28.267104
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])[H:7])[H:6],29.5809
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7]1.[O:8][H:19],67.7808
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([C:14]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:18])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]([H:22])([H:23])[H:24])[H:17])([H:15])[H:16],23.8488
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13],40.5848
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:12]([H:13])([H:14])[H:15])[H:6],14.1838
[C:0]([C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8].[H:13]>>[C:0]([C:1]1([H:13])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8],-0.092048
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:7])[H:6],41.2124
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13].[C:21]([H:22])([H:23])[H:24]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:12])[H:13].[H:11][C:21]([H:22])([H:23])[H:24],93.119104
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:16])[H:17])[C:8](=[C:9]([H:19])[H:20])[H:18])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([C:8](=[C:9]([H:19])[H:20])[H:18])[C:7]1([H:16])[H:17])[H:10],101.378
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],54.141
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]#[C:7][H:14])[H:13])[H:12])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5]([C:6]#[C:7][H:14])[H:13])[H:12])[H:8],46.5679
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:8])[H:7],12.0499
